US06388088B1
A solution of (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid methyl ester (720 mg, 2.18 mmol) in ethanol (15 mL) was treated with a 1N aqueous sodium hydroxide solution (5 mL). The solution was heated at 45-50° C. for 15 h, at which time, thin layer chromatography analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was concentrated in vacuo to remove ethanol. The residue was diluted with water (30 mL) and extracted with diethyl ether (1×50 mL) to remove any neutral impurities. The aqueous layer was then acidified with a 1N aqueous hydrochloric acid solution, and the resulting acid was extracted into ethyl acetate (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid (690 mg, 100%) as a white solid: mp 182-185° C.; EI-HRMS m/e calcd for C16H17FN4O2 (M+) 316.1336, found 316.1334.

reactant | (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid methyl ester | 2.18 mmol, 720 mg | COC(\C(=C\C1CCCC1)\C1=CC(=C(C=C1)N1N=NN=C1C)F)=O | C17H19FN4O2
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid | 690 mg, 100% | C1(CCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)N1N=NN=C1C)F | C16H17FN4O2
